US07041695B2
Preparation of N,N-Dimethyl-2-[6-(phenylsulfonyl)-6H-thieno[2,3-b]pyrrol-4-yl]ethylamine
A mixtue of N,N-dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl)ethylamine (0.2 mmol), benzenesulfonyl chloride (0.22 mmol) and KOt-Bu (0.22 mmol) in THF is shaken at ambient temperatures for 8 h and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by preparative HPLC1 to afford the title product, [M+H] 335, retention time (RT) 1.42 min. 1 Gilson Preparative HPLC conditions: Gilson Preparative HPLC system; YMC Pro C18, 20 mm×50 mm ID, 5 uM column; 2 mL injection; Solvent A: 0.02% TFA/water; Solvent B: 0.02% TFA/acetonitrile; Gradient: Time 0: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD.

reactant | N,N-dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl)ethylamine | 0.2 mmol | CN(C)CCC=1C2=C(NC1)SC=C2 | C10H14N2S
reactant | benzenesulfonyl chloride | 0.22 mmol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | KOt-Bu | 0.22 mmol | CC(C)(C)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | N,N-Dimethyl-2-[6-(phenylsulfonyl)-6H-thieno[2,3-b]pyrrol-4-yl]ethylamine | CN(C)CCC=1C2=C(N(C1)S(=O)(=O)C1=CC=CC=C1)SC=C2 | C16H18N2O2S2
